US08389524B2
(2R)-2-[(4-{[(8-Fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
A suspension of (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (for a preparation see Example 16A(j)) (58.5 mg, 0.194 mmol) and 8-fluoro-2,3-dihydro-1,4-benzodioxin-6-carbaldehyde (for a synthesis see WO2007122258, Example 8(b)) (31.8 mg, 0.175 mmol) in chloroform (2 ml) and methanol (0.100 ml) at room temperature under nitrogen was stirred for 0.5 h. This was then treated with sodium triacetoxyborohydride (123 mg, 0.582 mmol) and stirred for 90 min. This was then treated with saturated aqueous NaHCO3 (10 ml) and extracted with 20% methanol/DCM (3×25 ml). The combined organic extracts were dried (NaSO4), filtered, evaporated and purified using silica chromatography (0-20% methanol/DCM) to give the free base of the title compound as a yellow gum (44.9 mg, 49.5%).

reactant | (2R)-2-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O | C15H19N5O2
reactant | 8-fluoro-2,3-dihydro-1,4-benzodioxin-6-carbaldehyde | FC1=CC(=CC2=C1OCCO2)C=O | C9H7FO3
reactant | sodium triacetoxyborohydride | 0.582 mmol, 123 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
reactant | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.100 ml | CO | CH4O
product | (2R)-2-[(4-{[(8-Fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | 44.9 mg, 49.5% | Cl.FC1=CC(=CC2=C1OCCO2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3N=CC(N2C13)=O)=O | InChI=1S/C24H26FN5O4.ClH/c25-18-9-15(10-20-23(18)34-8-7-33-20)11-26-16-3-5-28(6-4-16)13-17-14-29-21(31)2-1-19-24(29)30(17)22(32)12-27-19;/h1-2,9-10,12,16-17,26H,3-8,11,13-14H2;1H/t17-;/m1./s1
